US07888366B2
4-Chlorophenol (64.0 mg; 0.5 mmol) and potassium carbonate were added to a cooled (0° C.) and stirred solution of 2-bromomethyl-6-nitrobenzonitrile (120.0 mg; 0.5 mmol) [prepared by the method of Ashton and Hynes, J. Med. Chem. 16, 1233 (1973)] in dimethylformamide under nitrogen atmosphere. The reaction mixture was stirred at 0° C. for 1.5 hours, then diluted with pyridine (1.5 mL), water, stirred for 1 hour, filtered and dried to yield 140 milligrams of 2-(4-chlorophenoxymethyl)-6-nitrobenzonitrile.

reactant | 4-Chlorophenol | 0.5 mmol, 64.0 mg | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-6-nitrobenzonitrile | 0.5 mmol, 120.0 mg | BrCC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C8H5BrN2O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-(4-chlorophenoxymethyl)-6-nitrobenzonitrile | 140 milligrams | ClC1=CC=C(OCC2=C(C#N)C(=CC=C2)[N+](=O)[O-])C=C1 | C14H9ClN2O3
